US07718693B2
1-Cyclopentyl-5-oxoproline (0.100 g, 0.51 mmol, prepared as described below) was dissolved in a mixture of dichloromethane (2.5 ml) and dimethylformamide (0.5 ml) and to this were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.117 g, 0.61 mmol), 1-hydroxybenzotriazole (0.082 g, 0.61 mmol), and N-ethyl morpholine (0.2 ml, 1.52 mmol). The mixture was stirred for 10 minutes and then [(2-chloro-4-fluorophenyl)methyl]amine (0.097 g, 0.61 mmol) was added and the mixture was stirred overnight. Saturated aqueous sodium hydrogen carbonate (10 ml) was added and the mixture stirred vigorously for 15 minutes. The organic phase was separated with a phase separator and the aqueous phase was washed with further aliquots of dichloromethane (3×10 ml). The organic fractions were combined and dried over magnesium sulphate. The solvent was then evaporated and the residue was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-1-cyclopentyl-5-oxoprolinamide.

reactant | 1-Cyclopentyl-5-oxoproline | 0.51 mmol, 0.100 g | C1(CCCC1)N1[C@H](C(=O)O)CCC1=O | C10H15NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.61 mmol, 0.117 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.61 mmol, 0.082 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 1.52 mmol, 0.2 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.61 mmol, 0.097 g | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-cyclopentyl-5-oxoprolinamide | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(CC1)=O)C1CCCC1)=O | C17H20ClFN2O2
